Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
ceftriaxone
 
Attending: ___.
 
Chief Complaint:
Behavioral changes
 
Major Surgical or Invasive Procedure:
Lumbar Puncture
Tracheostomy 
Percutaneous Gastrostomy

 
History of Present Illness:
The pt is a  ___ y/o man who comes in with one day history of 
confusion. He was well until about 2 weeks ago when he started 
to complain of flu like symptoms, staying home and not going out 
with his friends for about ___ days. By ___ of last week he 
felt fetter and was able to go to work without a problem. At the
end of the week he went to ___ to go snowboarding and then came 
back to ___ on ___ for the NFL game. He drove back to 
___, ___ without a problem but was complaining of some body 
aches on ___. By ___ evening he was noted to be napping 
(although not abnormal for him) and needed help getting to his 
room (up the stairs) as he was lethargic, and on level ground he 
was having a shuffling type gait. He was placed in bed and his 
mother checked on him at night. She noted that he was 
unsettled/"thrashing" so she opened the door and then he awoke 
and stared to scream. SHe consoled him but when his dad came in
he was startled again and started to scream. He then quieted 
down and then the next morning he was noted to be in bed, unable 
to get up, unable to answer questions, and had inappropriate 
laughter. He was then taken to ___ and 
subsequently transferred to ___ ED. Here in the ED he is awake 
but non-verbal and unable to give me any history. His mom notes 
that he had not complain of any rashes, bug or animal bites. 
They have a parakeet at home. He has one brother at home who is 
not sick. There has been no recent travel outside the ___, 
but he did go to ___ last year.  

 
Past Medical History:
Cleft palate which was surgically corrected
Murmur in childhood
 
Social History:
___
Family History:
No history of meningitis, early strokes.

 
Physical Exam:
On Admission: 
Vitals: T: 99  P:61  R: 16  BP: 115/67  SaO2:100% ra
General: Awake, looks around, chills.
HEENT: NC/AT, MMM.
Neck: Supple, no LAD noted.
Pulmonary: Lungs CTA bilaterally 
Cardiac: RRR, nl. S1S2 
Abdomen: soft, NT/ND.
Extremities: No edema or deformities.
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status:Alert, only verbally offered his name and when I
asked where he was at he said hospital. He may have said that he
also had the flu as well. Otherwise he did not offer spontaneous
speech, had inappropriate laughter when I first started to talk
to him, was rarely able to follow simple one step commands but
mostly able to mime me. I held a NIHSS and asked him to point at
specific pictures and he was unable to do so. 

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and ___.  + blink to threat bilaterally.
Funduscopic difficult to perform.
III, IV, VI: lateral movements intact, no nystgmus noted.
VII: No facial droop appreciated
IX, X: Palate elevates symmetrically.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No  tremor, asterixis
noted.
Stregth appreciated as full in the upper extremities at the
deltoids, biceps, tricpes, and finger flexors. At the lower
extremities he was not able to hold up his legs, and his heel
slid back down when flexed at the knee, His quads were
appreciated as 3- on the left and 2+ on the right. He wiggles 
his
toes.   

-Sensory: he withdrew to pin-prick but not vigorously. 

-DTRs: ___ throughout including the ankles

-Plantar response was extensor bilaterally.

DISCHARGE EXAM: 
General: Awake and alert, NAD, follows commands.
HEENT: NC/AT, MMM.
Neck: Supple.
Pulmonary: Lungs CTA bilaterally 
Cardiac: RRR, nl. S1S2 
Abdomen: soft, NT/ND.
Extremities: No edema or deformities.
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: Awake and alert, trach in place but able to say 
a few words with Passy-Muir valve. Comprehension intact, follows 
commands well.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and ___. 
III, IV, VI: EOMI
VII: Face symmetric
IX, X: Palate elevates symmetrically.
XII: Tongue protrudes in midline.

-Motor:
Able to raise both arms anti-gravity, right somewhat better than 
left. Strong hand grasps, R>L. Able to provide some resistance 
in biceps, triceps, ___.
Able to lift legs anti-gravity off bed, ___ in IP's. Full 
strength distally, wiggles toes b/l.

-Sensory: Responds to touch throughout. 

-DTRs: ___ throughout including the ankles.
Plantar response extensor bilaterally.

-Gait: deferred
 
Pertinent Results:
Admission Labs: 
___ 05:00PM BLOOD WBC-8.6 RBC-4.94 Hgb-14.9 Hct-40.5 MCV-82 
MCH-30.3 MCHC-36.9* RDW-11.8 Plt ___
___ 05:00PM BLOOD Neuts-79.1* Lymphs-14.1* Monos-5.7 
Eos-0.2 Baso-0.9
___ 05:00PM BLOOD ___ PTT-31.9 ___
___ 05:00PM BLOOD Glucose-95 UreaN-8 Creat-1.1 Na-142 K-4.1 
Cl-111* HCO3-23 AnGap-12
___ 05:00PM BLOOD Calcium-8.7 Phos-3.6 Mg-2.1
___ 01:46AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-NEG
___ 01:46AM URINE Color-Straw Appear-Clear Sp ___
___:46AM URINE
___ 01:27PM CEREBROSPINAL FLUID (CSF) WBC-10 RBC-1* Polys-1 
___ Monos-0 ___ Macroph-9
___ 01:27PM CEREBROSPINAL FLUID (CSF) WBC-85 RBC-10* 
Polys-0 ___ Macroph-15
___ 01:27PM CEREBROSPINAL FLUID (CSF) TotProt-76* 
Glucose-63
___ 01:27PM CEREBROSPINAL FLUID (CSF) ENTEROVIRUS 
PCR-NEGATIVE
___ 01:27PM CEREBROSPINAL FLUID (CSF) HERPES SIMPLEX VIRUS 
PCR-NEG
___ 01:27PM CEREBROSPINAL FLUID (CSF) MULTIPLE SCLEROSIS 
(MS) PROFILE-NOT CONSISTENT WITH MS
___ 08:16AM CEREBROSPINAL FLUID (CSF) EBV-PCR-NEGATIVE 
___ 08:16AM CEREBROSPINAL FLUID (CSF) VARICELLA DNA 
(PCR)-NEGATIVE
___ 01:35AM BLOOD IgA-117
___ 05:00PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

Reports: 
CSF Cytology: NEGATIVE FOR MALIGNANT CELLS. Hypercellular 
specimen with lymphocytes, some with reactive features, and 
monocytes. 

EEG ___: This is an abnormal video EEG monitoring session 
because of 
very frequent electrographic seizures from bifrontal and left or 
right 
frontal regions. These frequent electrographic seizures are 
nearly 
continuous at the beginning of the recording and are consistent 
with 
non-convulsive status epilepticus. The background between 
seizures and 
after administration of intravenous lorazepam shows 
predominantly theta 
activity with excess beta activity indicative of a medication 
effect and 
moderate diffuse encephalopathy. 

EEG ___:  This is an abnormal continuous ICU monitoring 
study which 
captured three pushbutton activations, one of which was for left 
arm 
extensor posturing during which diffuse delta frequency activity 
was 
seen without evolution and there was no evidence of 
electrographic 
seizure activity with any of the pushbuttons. There were 
frequent 
generalized, but left greater than right frontal spike and wave 
epileptiform discharges, indicative of an epileptogenic focus in 
the 
left frontal region with rapid spread. The background showed 
mixed 
frequency activity with excess beta activity and frequent bursts 
of 
delta activity and generalized suppression. These findings are 
indicative of a moderate to severe diffuse encephalopathy, and 
the 
excess beta activity was likely a reflection of medication 
effects. 
There were no electrographic seizures. 

EEG ___: This is an abnormal continuous ICU monitoring 
study due to 
the slow and disorganized background with excess beta activity 
indicative of an encephalopathy. There were frequent bursts of 
frontally predominant delta activity, indicative of deep midline 
or 
subcortical dysfunction. There were rare blunted generalized or 
bifrontal sharp wave discharges suggestive of underlying 
cortical 
irritability; however, there were no clear electrographic 
seizures. 

EEG ___: This is an abnormal continuous ICU monitoring 
study due to 
the slow and disorganized background, primarily in the ___ Hz 
delta 
frequency range, indicative of a severe encephalopathy and deep 
midline 
or subcortical dysfunction. There were infrequent broad-based 
generalized or bifrontal sharp wave discharges, suggestive of 
underlying 
cortical irritability; however, there were no clear 
electrographic 
seizures. There were three pushbutton activations during which 
no 
clinical or electrographic evidence of seizure activity was 
seen. 

EKG ___: Sinus rhythm and sinus arrhythmia. Non-specific 
inferior ST-T wave flattening. No previous tracing available for 
comparison.  
Rate PR QRS QT/QTc P QRS T 
70 ___ 75 61 26 

MR ___ Spine ___: 
1. Extensive cervical spinal cord edema and signal abnormality, 
apparently 
segmental (though possibly continuous) from the cervicomedullary 
junction to the C3-4, and the C4-5 to C6-7 level. 
2. No definite abnormal enhancement at these sites or elsewhere 
along the 
cord. 
3. Equivocal subcentimeter T2-hyperintensity in the left lower 
lobe, not seen elsewhere and could represent an artifact. If 
clinical concern remains high, recommend follow-up with a CT 
chest. 
 
MR ___ w and w/o contrast ___: 
1. Symmetric, diffuse, confluent T1-hypo and 
T2-/FLAIR-hyperintensity in 
bihemispheric subcortical and periventricular white matter, but 
also involving the thalami, pons and right middle cerebellar 
peduncle, concerning for a severe infectious/inflammatory 
process. 
2. No definite enhancement post-contrast administration, 
hemorrhage or slow diffusion, as might be seen in active 
demyelination or some viral 
encephalitides.  
3. No other structural lesion.  

EMG ___: 
There is no evidence for a generalized demyelinating or axonal 
polyneuropathy.
However, the electrophysiologic findings are consistent with a 
mild, 
generalized myopathy with modest denervating features, which 
could be 
consistent with critical illness myopathy in this clinical 
setting. There is also evidence for a mild ulnar neuropathy at 
the left elbow; the findings are also suggestive of a 
mild-moderate left peroneal neuropathy that cannot be 
well-localized. The markedly reduced activation in all muscles 
studied is consistent with the patient's known central 
pathology.  

CT torso ___:
IMPRESSION:  
1. No evidence of pneumonia or abscess. 
2. Resolution of right pleural effusion that was seen on prior 
examination 
with only minimal residual dependent atelectasis that is seen on 
current 
examination. 
3. Left adrenal nodule that is not fully characterized. 
Comparison to prior examinations if available is recommended. 

CTA ___:
1. Subsegmental pulmonary embolism in both lung bases. 
2. Low-lying tracheostomy tube should be withdrawn by at least a 
centimeter. 

 
Brief Hospital Course:
1. Neurologic: The patient presented with a history of a 
flu-like illness 2 weeks prior and a day history of AMS and 
weakness. He was taken to an OSH his CSF was notable for a wbc 
69 with 94%lymphs (rbc 10, TP 78, gluc 67). NCHCT was read as 
unremarkable. He was started on CTX, vanc, and acyclovir, and 
transferred to ___. Upon admission, he initally came to our 
general neurology service in the step down unit. Overnight that 
first night of admission, he was placed on bedside EEG and found 
to be in NCSE. He was given ativan 1mg x 1 followed by Keppra 
load of 1500mg x 1 which resolved seizure activity. Maintanence 
was continued with Keppra 1000mg bid. He then was taken down for 
MRI of brain and spine but could not perform due to agitation. 
Another dose of ativan was administered but due to concern of 
excessive sedation, MRI was still not performed. Over the course 
of the night, his exam also worsened as he was no longer 
answering questions or following commands. This and the need for 
the MRI with intubation prompted transfer to the ICU. The MRI 
was performed under general anesthesia, after which he was 
admitted to the ICU, still intubated. This imaging showed 
diffuse subcortical leukoencephalopathy with involvement of the 
thalamus, pons, and right middle cerebellar peduncle. A lumbar 
puncture was then performed which showed 10wbc (89%lymph), 1rbc, 
protein 76, and glucose 63. Given the concern for a 
demyelinating pattern on MRI, after infectious processes were 
ruled out, he was started on solumedrol 1g dialy x 5 days with a 
subsequent prednisone taper. He showed minimal response to this. 
His exam has remained relatively stable, with intermittent 
opening of eyes and tracking with no clear following of 
commands.
He continues to have diffuse hypertonia and hyperreflexia with 
Babinski sign present bilaterally. His brainstem reflexes have 
remained intact throughout. EEG during his ICU course showed low 
amplitude ___ frontally predominant delta rhythm. Initially
there were frequent gneralized and bifrontal epileptiform 
discharges- this has improved. There was some concern of 
continued seizure activity with intermittent rhythmic eye 
blinking during his solumedrol infusions, however these 
ultimately showed no electrographic correlation. During this 
period, the keppra was increased transiently but after 
confirmation that these were not seizures, he was brought back 
to 1gm bid which he currently remains on. The etiology for his 
presentation remained unclear. Infectious workup, as detailed 
below, was negative. MS profile was also sent and was negative.

After transfer back to the floor (s/p trach and PEG), review of 
imaging and lack of response to both solumedrol and IVIG 
(initiated on transfer), raised concern for NMO and 
plasmapheresis was initiated ___. NMO antibodies were ultimately 
negative. However EBV IgG and IgM were both positive, indicating 
a recent infection within the last 6 weeks. Given this, the most 
likely etiology appears to be ADEM related to a post-infectious 
encephalomyelitis. He improved significantly on plasmapheresis, 
of which he completed 10 courses between ___ and ___. He will 
continue on Prednisone 60mg daily for a total of 6 weeks 
(through ___. He will then be slowly tapered over a period of 6 
weeks (10mg per week).

2. Infectious disease: Lumbar puncture as above showing 
lymphocytic pleocytosis. CSF has been negative for bacteria, AFB 
smear, HSV, EBV, VZV, enterovirus, cryptococcal antigen, and 
flu. Numerous blood and urine cultures have been collected 
during low
grade fevers and have been negative. He was initially on 
ceftriaxone, vancomycin, and acyclovir prior to the return of 
CSF, these were subsequently discontinued. After tracheostomy on 
___, he did develop a pneumonia with positive sputum cultures
that grew GPCs in clusters/pairs as well as GNRs. Vancomycin and 
zosyn were initiated. When the specificities returned, he was 
narrowed down to ceftriaxone, however he developed a rash, 
presumed as a reaction to the CTX and was switched to cipro. He 
continued to spike low grade fevers prompting a repeat 
infectious workup without any identifiable source so ID was 
consulted. Per their recommendations, a CTA chest was obtained 
to evaluate concern of pneumonia further as well as rule out 
pulmonary embolism. It was unremarkable. Part of the infectious 
workup did show a positive blood culture from the PICC so this 
was removed and repeat culture was obtained. This was ultimately 
negative and vancomycin was then discontinued. He did continue 
to have a rash which showed improvement after discontinuing the 
zosyn and on standing benadryl, therefore supporting his 
reaction to beta-lactam antibiotics.

He remained afebrile until ___, when he again developed low 
grade fevers. A repeat infectious work-up revealed a UTI with 
culture positive for pseudomonas and serratia. He was treated 
with Zoysn for 7 days and became afebrile. Repeat CXR and blood 
cultures were negative. CT torso showed no evidence of infection 
or abscess but did raise the question of small b/l subsegmental 
PE's. CTA confirmed this and he was started on anticoagulation.

ID also recommended starting Bactrim SS 1 tab daily for PCP 
prophylaxis while on steroid therapy. He will also need a repeat 
EBV panel drawn in 2 weeks.

3. Respiratory: Due to his continued poor mental status, a 
tracheostomy was performed ___. He has been stable on trach 
mask since, requiring FiO2 from 40-50%.

CTA on ___ showed b/l small subsegmental PE's. He was started 
on Lovenox to bridge to Coumadin.

4. Cardiovascular: Has remained hemodynamically stable. 
Maintained on telemetry monitoring throughout admission with no 
significant events.

5. Nutrition: Due to his mental status, a PEG tube was placed 
___ and he has been tolerating continuous tube feeds at 60ml/h.

6. Heme: Due to the persistent fevers and mildly increased O2 
requirement with mild tachycardia, bilateral lower extremity 
ultrasound was performed on ___ to rule out DVTs. This was 
negative. A CTA chest was also performed on ___ and showed no 
evidence of a pulmonary embolism. He was maintained on subQ 
heparin prophylaxis.
A repeat CTA was performed on ___ due to concern for small PE's 
seen on CT torso. This was positive for small b/l subsegmental 
PE's. Lower extremity dopplers were again negative. He was 
started on Lovenox 1mg/kg BID as a bridge to Coumadin for 
anticoagulation.

TRANSITIONAL CARE ISSUES
1. ___, speech therapy, respiratory therapy, social work. 
___ need intensive ___ and OT to regain his strength. He 
still has a trach in place and has been tolerating some short 
trials of a Passy-Muir valve. He will need to be followed 
closely by speech and respiratory therapy and hopefully can work 
toward having the trach removed in the near future. His 
swallowing function also needs to be monitored closely.
2. He will need to remain on Keppra for seizure prophylaxis. 
3. Prednisone should be continued at 60mg daily for a total of 6 
weeks (through ___ and then should be tapered slowly over 
another 6 weeks (decrease by 10mg per week). While on prednisone 
he will need to be on Calcium + Vitamin D supplementation, 
famotidine, insulin sliding scale, and Bactrim for PCP 
___.
4. He will need to continue Lovenox 1mg/kg BID until his INR is 
therapeutic between ___. His coumadin dose is currently 5mg 
daily. INR will need to be monitored closely particularly as he 
will be on Bactrim.
5. He will need a repeat EBV panel drawn in 2 weeks.
 
Medications on Admission:
None
 
Discharge Medications:
1. docusate sodium 50 mg/5 mL Liquid Sig: One (1)  PO BID (2 
times a day).  
2. bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed for 
constipation.  
3. insulin regular human 100 unit/mL Solution Sig: One (1)  
Injection ASDIR (AS DIRECTED): Please give ACHS as per insulin 
sliding scale.  
4. levetiracetam 100 mg/mL Solution Sig: One (1)  PO BID (2 
times a day).  
5. prednisone 20 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily): Continue 60mg daily through ___. Will then need to 
be tapered slowly over 6 weeks (down by 10mg per week).  
6. acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for fever or pain.  
7. albuterol sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1)  Inhalation Q6H (every 6 hours) as 
needed for SOB, wheezing.  
8. calcium carbonate 200 mg calcium (500 mg) Tablet, Chewable 
Sig: One (1) Tablet, Chewable PO BID (2 times a day).  
9. cholecalciferol (vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO BID (2 times a day).  
10. enoxaparin 80 mg/0.8 mL Syringe Sig: One (1)  Subcutaneous 
Q12H (every 12 hours): To be given until INR therapeutic ___.  
11. warfarin 5 mg Tablet Sig: One (1) Tablet PO Once Daily at 4 
___.  
12. sulfamethoxazole-trimethoprim 400-80 mg Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
13. famotidine 20 mg Tablet Sig: One (1) Tablet PO Q12H (every 
12 hours).  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
ADEM - likely resulting from EBV infection

 
Discharge Condition:
Mental Status: Awake and alert
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you during your hospital stay. 
You were admitted to the Neurology service at ___ 
___ on ___ due to behavioral 
changes including increased somnolence, gait changes, and 
agitation. Through a series of physical examinations, laboratory 
investigations, and neuroimaging studies, our best understanding 
of Mr. ___ condition is that he experienced an attack of ADEM 
(acute disseminated encephalomyelitis), which is an autoimmune 
nervous system condition that can occur after certain viral or 
flu-like infections. This may have resulted from a recent 
infection with ___ Virus, the cause of mononucleosis. 
As treatment for this condition, he received high dose 
intravenous steroid therapy as well as intravenous 
immuneglobulin therapy (IVIg), followed by an extended course of 
plasmapheresis. He will continue to be treated with steroids 
(Prednisone) after discharge. He was also started on a 
medication called Keppra to prevent seizures. To support his 
airway and nutrition, he received a tracheostomy and a 
percutaneous gastrostomy. He will be discharged to ___ to 
continue rehabilitation after discharge. He will require 
intensive rehab with physical, occupational, and speech therapy 
and will likely have a prolonged recovery course, but will 
hopefully steadily continue to improve.

We made the following changes to your medications:
Started Keppra 1000mg twice a day
Started Prednisone 60mg daily. You will continue this dose until 
___ (total 6 weeks) and then it will need to be gradually 
tapered over the next 6 weeks (down by 10mg per week).
Started Coumadin 5mg daily
Started Lovenox injections 70mg twice a day until your coumadin 
level (INR) is therapeutic (between ___

If you experience any of the below listed danger signs, please 
call your doctor or go to the nearest Emergency Department.
 
Followup Instructions:
___